US07157487B2
In THF-methanol (1:1, 20 ml) was dissolved ethyl 2-(2-methylphenylamino)-6-benzothiazolylacetate (907 mg, 2.78 mmol). To the resulting solution was added 1.0M-NaOH (8.34 ml, 8.34 mmol), followed by stirring overnight at room temperature. The reaction mixture was concentrated under reduced pressure. The residue was acidified with 1.0N HCl. The crystals thus obtained were collected by filtration under reduced pressure, washed with water and dried at 60° C. under reduced pressure, whereby 2-(2-methylphenylamino)-6-benzothiazolylacetic acid (675 mg, 81%) was obtained as a white crystalline powder.

reactant | ethyl 2-(2-methylphenylamino)-6-benzothiazolylacetate | 2.78 mmol, 907 mg | CC1=C(C=CC=C1)NC=1SC2=C(N1)C=CC(=C2)CC(=O)OCC | C18H18N2O2S
reactant | NaOH | 8.34 mmol, 8.34 ml | [OH-].[Na+]
solvent | THF methanol | 20 ml | C1CCOC1.CO
product | 2-(2-methylphenylamino)-6-benzothiazolylacetic acid | 675 mg, 81% | CC1=C(C=CC=C1)NC=1SC2=C(N1)C=CC(=C2)CC(=O)O | C16H14N2O2S
